US08420632B2
2.1 ml (15 mmol) of triethylamine and then 920 mg (5 mmol) of 4-hydroxybenzenesulfonyl chloride in 20 ml of dichloromethane are added dropwise to a solution of 1.1 g (3 mmol) of benzyl 4-(2-amino-1-methoxycarbonylethyl)piperazine-1-carboxylate dihydrochloride in 30 ml of dichloromethane, cooled beforehand to 0° C. The reaction medium is then stirred at ambient temperature for 18 h. After the addition of water, the reaction medium is extracted with dichloromethane. The organic phase is with water and then dried over magnesium sulfate, filtered and concentrated under vacuum. The crude residue obtained is purified by chromatography on silica gel, elution being carried out with a 50/50 heptane/ethyl acetate mixture. 60 mg (46%) of benzyl 4-[2-(4-hydroxybenzenesulfonylamino)-1-methoxycarbonylethyl]piperazine-1-carboxylate are obtained in the form of a white solid.

reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxybenzenesulfonyl chloride | 5 mmol, 920 mg | OC1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO3S
reactant | benzyl 4-(2-amino-1-methoxycarbonylethyl)piperazine-1-carboxylate dihydrochloride | 3 mmol, 1.1 g | Cl.Cl.NCC(C(=O)OC)N1CCN(CC1)C(=O)OCC1=CC=CC=C1
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | benzyl 4-[2-(4-hydroxybenzenesulfonylamino)-1-methoxycarbonylethyl]piperazine-1-carboxylate | 60 mg, 46% | OC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H27N3O7S
